US07612114B2
(R)-6-{2-{Ethyl[4-(1-methylpiperidin-4-yloxy)benzyl]amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol
Synthesized from pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester (35 mg) and 4-(1-methylpiperidin-4-yloxy)benzaldehyde (94 mg) according to an analogous synthetic method to Example 264 and purified by LC-MS, the title compound (37 mg) was obtained.

reactant | pivalic acid (R)-6-(2-ethylamino-4,5-dimethoxyphenyl)-5,6,7,8-tetrahydronaphthalen-2-yl ester | 35 mg | C(C)NC1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)OC(C(C)(C)C)=O | C25H33NO4
reactant | 4-(1-methylpiperidin-4-yloxy)benzaldehyde | 94 mg | CN1CCC(CC1)OC1=CC=C(C=O)C=C1 | C13H17NO2
product | (R)-6-{2-{Ethyl[4-(1-methylpiperidin-4-yloxy)benzyl]amino}-4,5-dimethoxyphenyl}-5,6,7,8-tetrahydronaphthalen-2-ol | 37 mg | C(C)N(C1=C(C=C(C(=C1)OC)OC)[C@H]1CC=2C=CC(=CC2CC1)O)CC1=CC=C(C=C1)OC1CCN(CC1)C | C33H42N2O4
